US06551682B1
(15) Production of 2-(3-chloro-5-trifluoromethyl-2-pyridylazo)-5-(diethylamino)phenol (No. L116)
Next, a reaction flask was loaded with 3-(N,N-diethlyamino)phenol (1.3 g), dimethylformamide (9 ml), acetic acid (3 ml) and iodine (0.14 g), and they were mixed, followed by addition of 3-chloro-2-hydrazino-5-trifluoromethylpyridine (1.0 g) to the flask with stirring. Then, to this mixture, a 30 % hydrogen peroxide water (1.4 g) was dropwise added in one hour and the mixture was stirred overnight. Water was added to this reaction mixture, followed by extraction with ether. The organic layer was condensed to precipitate crystals. The crystals were filtrated for collection and dried to give intended crystals (0.5 g).

reactant | 3-(N,N-diethlyamino)phenol | 1.3 g | C(C)N(CC)C=1C=C(C=CC1)O | C10H15NO
reactant | iodine | 0.14 g | II | I2
reactant | 3-chloro-2-hydrazino-5-trifluoromethylpyridine | 1.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)NN | C6H5ClF3N3
reactant | hydrogen peroxide water | 1.4 g | O.OO
solvent | Water | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 2-(3-chloro-5-trifluoromethyl-2-pyridylazo)-5-(diethylamino)phenol | ClC=1C(=NC=C(C1)C(F)(F)F)N=NC1=C(C=C(C=C1)N(CC)CC)O | C16H16ClF3N4O
